US07767675B2
Step 2. 1-(pyridin-2-yl)pyrrolidin-3-amine dihydrochloride
tert-Butyl (1-pyridin-2-ylpyrrolidin-3-yl)carbamate (2.5 g) was dissolved in methanol (4 mL) and was treated with 4M hydrogen chloride in 1,4-dioxane (8 mL). The mixture was stirred overnight at RT. The solvents were evaporated under reduced pressure. The residue was washed with ether and dried to give the desired product (2.1 g, 92%). LCMS: (M+H)=164.1.

reactant | tert-Butyl (1-pyridin-2-ylpyrrolidin-3-yl)carbamate | 2.5 g | N1=C(C=CC=C1)N1CC(CC1)NC(OC(C)(C)C)=O | C14H21N3O2
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 1-(pyridin-2-yl)pyrrolidin-3-amine dihydrochloride | 2.1 g, 92% | Cl.Cl.N1=C(C=CC=C1)N1CC(CC1)N | InChI=1S/C9H13N3.2ClH/c10-8-4-6-12(7-8)9-3-1-2-5-11-9;;/h1-3,5,8H,4,6-7,10H2;2*1H
